US04880838
Part E: Preparation of 8-[4-(4-amino-2-chlorophenoxy)-3-bromo-2,5-dimethylphenyl]-8-azabicyclo[4.3.0]-nonan-7,9-dione
Into a Parr bottle was charged 8-[3-bromo-4-(2-chloro-4-nitrophenoxy)-2,5-dimethylphenyl]-8-azabicyclo[4.3.0]-nonan-7,9-dione (3.45 grams, 6.79 mmol) prepared in Part D and ethyl acetate (100 milliliters). The reaction mixture was purged with nitrogen, 5% platinum on carbon (480 milligrams) was added and the mixture was hydrogenated for 1.5 hours at 40-50 psi hydrogen and room temperature on a rocking Parr hydrogenator. Filtration through celite and concentration under reduced pressure afforded the desired product (2.73 grams, 5.71 mmol, 84%). H'-NMR (CDCl3) 6.93 (br s, 1H), 6.80 (d, J=2 Hz, 1H), 6.33 (m, 2H), 3.45 (br s, 2H), 3.06 (br m, 2H) 2.4-1.2 (m, 14H).

reactant | 8-[3-bromo-4-(2-chloro-4-nitrophenoxy)-2,5-dimethylphenyl]-8-azabicyclo[4.3.0]-nonan-7,9-dione | 6.79 mmol, 3.45 grams | BrC=1C(=C(C=C(C1OC1=C(C=C(C=C1)[N+](=O)[O-])Cl)C)N1C(C2CCCCC2C1=O)=O)C | C22H20BrClN2O5
solvent | ethyl acetate | 100 milliliters | C(C)(=O)OCC | C4H8O2
product | 8-[4-(4-amino-2-chlorophenoxy)-3-bromo-2,5-dimethylphenyl]-8-azabicyclo[4.3.0]-nonan-7,9-dione | 5.71 mmol, 2.73 grams, 84% | NC1=CC(=C(OC2=C(C(=C(C=C2C)N2C(C3CCCCC3C2=O)=O)C)Br)C=C1)Cl | C22H22BrClN2O3
